* C:\users\vito\Documents\facu\4y\1Q\tps\labo3\practica1\SnH.asc
XU2 CLK0 CLK1 Vcc 0 74HCU04
Rv N002 N001 105k
C1 N001 0 2n2 IC=1
R2 N003 0 18k
R3 Vcc N003 18k
XU7 Vcc vcc V=15
C2 CLK0 0 10p
R4 Vcc N002 1k
XU3 CLK1 CLK2 Vcc 0 74HCU04
XU4 CLK2 CLK3 Vcc 0 74HCU04
XU5 CLK3 CLK4 Vcc 0 74HCU04
R5 CLK0 N002 100
R6 N002 N003 33k
XU8 Vdd Vss 0 supply Vp=5 Vn=5
XU9 snh_out snh_out_iso Vdd Vss snh_out_iso TL082
C3 N004 0 560p
R7 snh_out 0 10k
C4 snh_out 0 1p
R8 N005 snh_out_iso 0.1
R9 Sample_N 0 10k
C5 Sample_N 0 10p
R10 N006 snh_out_iso 0.1
R11 Sample_I 0 10k
C6 Sample_I 0 10p
V1 sgn_in 0 SINE(0 1 1k)
XU1 N006 Sample_I CLK4 Vdd Vss 54HC4016
XU11 N005 Sample_N CLK3 Vdd Vss 54HC4016
XU12 sgn_in CLK1 0 Vss N004 snh_out Vdd LF398H
XU13 N003 N001 Vcc 0 NC_01 N002 0 LM311
.tran 0 3m 1m
.lib C:\users\vito\Documents\LTspice\Libraries\ana_swit.lib
.lib C:\users\vito\Documents\LTspice\Libraries\LTSpiceASSDLib.lib
.lib TCLib/supply.lib
.lib TCLib/TL082.lib
.lib TCLib/vcc.lib
.lib TCLib\74HCU04.lib
.backanno
.end
